Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, Nausea/vomitting
 
Major Surgical or Invasive Procedure:
___ CT guided ___ aspiration of deep abdominal fluid 
collection 

 
History of Present Illness:
___ w/ PMHx high-grade metastatic neuroendocrine tumor of the
rectum on palliative chemo s/p C4D1 Folfiri ___ and Neulasta 
on
___, Hep B, HIV, and hx of PE on lovenox who presented with
abdominal pain and n/v. Patient reports abdominal pain started 
on
___ and has been worsening since then. She had been doing "OK"
after chemo on ___ but started to experience significant pain
in the upper abdominal area, especially the epigastric area that
is sharp and "compression" like. She said this has been constant
and severe since that time but acutely worsened last night.  She
also reports nausea since that time and many episodes of vomitus
of what looks like "phlegm." No bilious or bloody emesis. Poor 
PO
intake over the last few days and did not take medications day
PTA given nausea. Last BM was on ___ and was formed without
blood. Passed gas last night. Tried home
morphine/oxycodone/gabapentin but unable to get pain under
control. Notes that this has happened at times following her
chemo but that this time it is particularly severe. Denies
fevers, chills, runny nose, sore throat, CP, cough, diarrhea,
constipation, dysuria, or frequency.

 
Past Medical History:
PAST ONCOLOGIC HISTORY: 
The patient is a ___ woman with previously treated 
High-grade neuroendocrine tumor of the rectum in ___
treated in ___.

___ a mass that was found in her rectum/anus.  She states
she initially presented with a hemorrhoid and constipation and
the mass was found on exam.  She was diagnosed ___ and 
treated
with carboplatin/etoposide through ___ with complete
resolution. Patient had local recurrence in ___ and was
treated with topotecan for 3 cycles followed by radiation 
therapy
from ___. She received an additional cycle of
topotecan on ___. PET/CT on ___ showed new liver mets and
presacral soft tissue mass. She was then started on CAV for 2
cycles (___).  She states that she did not have
any follow-up imaging after that point.

 She left ___ and did not have follow up with any oncologic
providers since.  Her port remained in place.  

In ___ she presented to ___.  She
underwent CT scan there where she was found to have multiple
liver lesions.  She underwent biopsy which per discharge
summaries at ___ states the findings were consistent with "small
cell carcinoma" 

She was experiencing new lower abdominal, back and sacral pain
with radiculopathy down the left leg and presented to ___ for the symptoms and an MRI was obtained which showed a
5.1 x 3.4 x 3.4 cm left presacral mass at S1 and an S2.  She was
prescribed oxycodone and hydromorphone q 4 hours and then sent 
to
___ for evaluation.

She was admitted from ___ - ___ with new PE and
liver metastasis which were biopsy confirmed as high-grade
neuroendocrine carcinoma.

She was treated with carboplatin and etoposide on ___ with a
dose of Neupogen on ___.  Due to chronic HIV/HPV she was
started on Dolutegravr, Truvada, Entecavir  per ID.  Radiation
oncology evaluated her and due to her prior radiation could not
safely implement sacral radiation.

Cycle #: 2 Day 1: ___ Carboplatin 4AUC and Etoposide 80
mg/m2

___: Stopped Carboplatin and Etoposide due to tumor
progression. 

___: Started on FOLFIRI chemotherapy, C1D1
___: Missed C1D15 of FOLFIRI due to cough and URI.
___: Received C1D1 of FOLFIRI chemo. She has missed 
multiple
chemotherapy sessions due to her hospitalizations and overall
health. 

___: C4D1 Folfiri 

PAST MEDICAL HISTORY:  
- Neuroendocrine carcinoma of rectum
- PE diagnosed in ___, on Lovenox
- GERD
- HIV ___ years
- HBV
- s/p C-section
- s/p hernia repair

 
Social History:
___
Family History:
No known family history of cancer. Mother still alive, 5
siblings. Father died in ___.
 
Physical Exam:
Admission Exam:
==================
Vitals:  98.9 PO 102 / 56 77 18 100 RA 
GENERAL: Lying in bed in intermittent distress from pain, AOx3
HEENT: PERRLA, EOMI, MMM, oropharynx clear
LUNGS: CTAB,  no wheezes/rales/rhonchi
CV:  RRR, no r/m/g
Back: no CVA tenderness, no vertebral tenderness 
ABD: +BS, soft, non-distended, significant pain with mild
palpation of the RUQ, epigastric area as well as the mid lower 
to
LLQ of the abdomen, no pain in RLQ with deep palpation 
EXT: +DP, wwp, no ___ edema
SKIN: no rashes 
NEURO:  CNII-XII intact, ___ strength bilateral upper and lower
extremities, sensation intact 
ACCESS:  Right port 

Discharge Exam:
==================
Vitals:  24 HR Data (last updated ___ @ 823)
    Temp: 98.3 (Tm 98.37), BP: 87/60 (76-104/48-82), HR: 83
(83-109), RR: 18 (___), O2 sat: 100% (98-100), O2 delivery: 
RA,
Wt: 129.7 lb/58.83 kg  
GENERAL: lying in bed comfortably, NAD, AOx3
HEENT: PERRLA, EOMI, MMM, oropharynx clear
LUNGS: CTAB,  no wheezes/rales/rhonchi
CV:  RRR, no r/m/g
ABD: +BS, soft, non-distended, No tenderness to palpation,
palpable node in the LL abdomen without pain, mesh palpated in
the periumbilical region with mild tenderness. Left sided ___
aspiration site c/d/I without surrounding pain or erythema 
EXT: +DP, wwp, no ___ edema
SKIN: no rashes 
NEURO:  CNII-XII intact, ___ strength bilateral upper and lower
extremities, sensation intact 
ACCESS:  Right port 
 
Pertinent Results:
Admission labs:
=====================
___ 08:05AM BLOOD WBC-21.6*# RBC-3.34* Hgb-11.3 Hct-34.2 
MCV-102* MCH-33.8* MCHC-33.0 RDW-16.4* RDWSD-61.2* Plt ___
___ 08:05AM BLOOD Neuts-87* Bands-4 Lymphs-3* Monos-2* 
Eos-1 Baso-1 ___ Metas-2* Myelos-0 AbsNeut-19.66* 
AbsLymp-0.65* AbsMono-0.43 AbsEos-0.22 AbsBaso-0.22*
___ 08:05AM BLOOD Glucose-85 UreaN-11 Creat-0.9 Na-134* 
K-4.2 Cl-96 HCO3-19* AnGap-19*
___ 08:05AM BLOOD ALT-35 AST-53* AlkPhos-216* TotBili-0.6
___ 04:31PM BLOOD Calcium-8.5 Phos-2.7 Mg-2.0
___ 08:14AM BLOOD Lactate-2.3*

Imaging:
======================
___ CT ab/pelvis w/o contr
1. Worsening hepatic metastasis with innumerable hypoattenuating 
lesions with central necrosis which appear enlarged more 
confluent compared to the prior study in ___.  2 cm 
mass at the left anorectal junction is unchanged.
2. Similarly, there is enlargement of a known 4.4 cm presacral 
soft tissue mass, previously 4.1 cm in ___
3. 2.7 cm fluid collection is seen deep to the mesh along the 
left anterior abdominal wall, also new since ___ and 
concerning for small abscess.
4. 2.0 cm fluid collection in the subcutaneous fat of the left 
lower anterior abdominal wall, could represent a small abscess 
or inflammatory reaction around a hematoma from prior injection.
5. Stable mild central intrahepatic biliary dilatation.

Procedures:
================
___ CT guided ___ aspiration
Successful CT-guided aspiration of a 1.7 cm left anterior 
abdominal wall fluid collection.  Samples were sent for 
microbiology evaluation

Micro:
============
All Blood and Urine cultures were NGTD

___ 2:09 pm ABSCESS      Source: abdominal deep abscess. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

Discharge labs:
================
___ 06:14AM BLOOD WBC-4.4 RBC-2.64* Hgb-8.8* Hct-26.2* 
MCV-99* MCH-33.3* MCHC-33.6 RDW-16.5* RDWSD-58.9* Plt Ct-99*
___ 06:14AM BLOOD Neuts-72* Bands-0 Lymphs-10* Monos-16* 
Eos-2 Baso-0 ___ Myelos-0 AbsNeut-3.17 AbsLymp-0.44* 
AbsMono-0.70 AbsEos-0.09 AbsBaso-0.00*
___ 11:44AM BLOOD  WBC-5.6 Lymph-12* Abs ___ CD3%-66 
Abs CD3-443* CD4%-20 Abs CD4-134* CD8%-46 Abs CD8-308 
CD4/CD8-0.44*
___ 06:14AM BLOOD Glucose-84 UreaN-4* Creat-0.9 Na-136 
K-4.0 Cl-103 HCO3-21* AnGap-12
___ 06:14AM BLOOD Calcium-8.7 Phos-2.8 Mg-2.0
 
Brief Hospital Course:
Patient Summary
===================
___ w/ PMHx high-grade neuroendocrine tumor of the rectum on
palliative chemo s/p C4D1 Folfiri on ___ (Neulasta ___ with
Hep B, HIV, and hx of PE on lovenox presents with abdominal 
pain,
nausea and PO intolerance in the setting of CT abdomen finding 
of
progression of liver metastasis and small rim enhancing 
abscesses
x2 on the right abdominal wall. Remained afebrile off 
antibiotics and deep abdominal abscess aspirated by ___. Cultures 
with negative gram stain and no growth over 24 hours. 
Superficial abdominal fluid collection more consistent with 
inflammatory granulomatous changes from lovenox injection and no 
pain on palpation. Abdominal pain improved with home 
oxycontin/oxycodone and intermittent IV dilaudid. She had a 
bowel movement with methylnaltrexone that significantly improved 
pain.

Acute Issues:
===================
#Abdominal abscess vs fluid collection
CT abdomen with 2cm fluid collection in LL anterior abdominal 
wall
likely from lovenox injection. Imaging also with 2.7 cm rim 
enhancing collection deep to mid abdominal mesh (hernia repair 
surgery in ___ ___. Fluid concerning for an abscess 
though patient without fevers and HD stable. She had 
leukocytosis iso of neulasta on ___ that downtrended during 
hospital stay. ID consulted with recommendation to hold off on 
antibiotics pending results of ___ drainage. CT guided aspiration 
of deep fluid collection with negative gram stain and no growth 
on cultures for 24 hrs. Remained HD stable and afebrile on 
discharge and no antibiotics were given. 

#Abdominal pain: 
#Nausea/PO intolerance 
Unclear etiology with acute onset of pain in the RUQ/epigastric
area as well as lower abdominal wall. Normal lipase and no
evidence of new biliary dilatation on CT abdomen. No evidence of
obstruction and patient passing gas. CT A/P with evidence of
progression of liver metastasis as well as presacral mass on
current chemo regimen. No compression of celiac plexus on 
imaging.
Concern for possible peptic ulcer given epigastric pain iso of 
previous
positive H.pylori s/p treatement in ___. Repeat stool 
antigen sent and pending on discharge. Abdominal pain improved 
after drainage of fluid collection and following bowel movement 
with methylnaltrexone. Able to tolerate PO and pain well managed 
on home Morphine SR 30mg BID, oxycodone 5 Q4hr PRN, and 
Gabapentin 300mg QHS. 

#Leukocytosis: 
Likely due to Neulasta on ___ and downtrended to normal range 
during hospitalization. Afebrile at home and no recorded fevers 
inpatient
without focal symptoms. Urine, blood, and fluid collection 
aspiration without growth. 

#Metastatic neuroendocrine carcinoma 
#Bone metastasis
Metastatic disease to presacrum with bone involvement of S2/S3. 
Treated with palliative intent with Folfiri given progression
through multiple lines of chemotherapy previously. Initially
localized and underwent treatment in ___ with carboplatin 
and
etoposide from ___ to ___ and then with topotecan for
three cycles and radiation for local recurrence in ___
with progression in ___ on CAV after that point with
unclear response. Progressed through carboplatin and etoposide 
at
___ and now on palliataive Folfiri though has missed multiple
doses of the medication. Now with progression of liver 
metastasis
as well as pre-sacral mass. After discussion of CT results with 
Dr. ___ expressed wish to pursue treatment which 
would likely include docetaxel. She will also likely have 
foundation one testing for potential molecular targets as 
outpatient 

#Opioid induced constipation
Had been constipated despite docusate, senna, bisacodyl PO and 
Miralax daily at home. Received methylnaltrexone on ___ with 
large BM that significantly improved abdominal pain. Evaluated 
by palliative care. Will consider possible methylnaltrexone as 
outpatient to help regular bowel movements. Discharged with 
increase senna to 2 tablets BID, and daily miralax BID and 
bisacodyl PR in addition to home regimen. 

#Hep B/HIV- 
Last CD4 count 159 on ___. Received neulasta on ___ that 
may interfere with results of repeat CD4 sent that are pending 
on discharge. Continued on home dolutregravir and Truvada as 
well as SS Bactrim daily. 

#H/o PE in ___ and started on Lovenox. Continued on home 
Lovenox 60mg BID. 

#H/o Orthostatic hypotension- Continued on home Midodrine 5mg 
daily 

#GERD- Repeat H.pylri stool antigen sent. Continued on 
omeprazole 40mg BID. Continued Ranitidine 150mg PO BID. 

#Anxiety: Continued home lorazepam 0.5mg daily PRN 

Transitional issues:
======================
[ ] Refractory constipation to high doses of home oral 
medications but large bowel movement with methylnaltrexone. 
Please consider administering this medication and possible home 
prescription if she remains constipated despite bowel regimen. 
[ ] Please follow up repeat CD4 count and repeat H.pylori stool 
antigen testing pending on discharge
[ ] Gram stain of abdominal fluid collection negative. F/u with 
final culture results

#HCP/Contact: Daughter, ___ ___ 
#Code:  Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Bisacodyl 10 mg PO DAILY:PRN constipation 
2. Docusate Sodium 100 mg PO BID 
3. Dolutegravir 50 mg PO DAILY 
4. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
5. Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
6. LORazepam 0.5 mg PO DAILY:PRN anxiety 
7. Megestrol Acetate 400 mg PO DAILY 
8. Morphine SR (MS ___ 30 mg PO Q12H 
9. Omeprazole 40 mg PO BID 
10. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
11. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
12. Ranitidine 150 mg PO BID 
13. Senna 8.6 mg PO BID constipation 
14. Gabapentin 300 mg PO QHS 
15. Midodrine 5 mg PO DAILY 
16. Ondansetron 4 mg PO Q8H:PRN nausea 
17. Prochlorperazine 10 mg PO Q6H:PRN nausea 
18. Lactulose 15 mL PO Q8H:PRN Constipation 
19. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
20. Tizanidine 2 mg PO BID 

 
Discharge Medications:
1.  Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 tablet by mouth QIDACHS Disp 
#*180 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY  
3.  Bisacodyl 10 mg PR QHS:PRN constipation  
RX *bisacodyl 10 mg 1 suppository(s) rectally QHS PRN for 
constiption Disp #*30 Suppository Refills:*0 
4.  Polyethylene Glycol 17 g PO BID constipation  
5.  Senna 17.2 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth twice a day 
Disp #*120 Tablet Refills:*0 
6.  Docusate Sodium 100 mg PO BID  
7.  Dolutegravir 50 mg PO DAILY  
8.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
9.  Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time  
10.  Gabapentin 300 mg PO QHS  
11.  Lactulose 15 mL PO Q8H:PRN Constipation  
12.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
13.  Megestrol Acetate 400 mg PO DAILY  
14.  Midodrine 5 mg PO DAILY  
15.  Morphine SR (MS ___ 30 mg PO Q12H  
16.  Omeprazole 40 mg PO BID  
17.  Ondansetron 4 mg PO Q8H:PRN nausea  
18.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
19.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
20.  Ranitidine 150 mg PO BID  
21.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
22.  Tizanidine 2 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Sterile abdominal fluid collection 
Opioid induced constipation 

Secondary diagnosis:
Metastatic neuroendocrine carcinoma
Leukocytosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___!

WHY WERE YOU ADMITTED?
- you were having worsening abdominal pain and nausea 

WHAT HAPPENED IN THE HOSPITAL?
- You had imaging of your stomach that showed that there was 
unfortunately worsening of the cancer in your liver. You also 
had small fluid collections in the abdomen
- The fluid collection that you can feel on your stomach is 
likely from Lovenox injection but the deeper collection deep in 
your abdomen was drained. This did not show any infection or 
bacterial growing in there and you were not started on 
antibiotics.
- You pain and nausea improved while you were here after having 
a large bowel movement 

WHAT SHOULD YOU DO AT HOME?
- You should continue taking all your medications
- if you do not have a bowel movement for ___ days, please call 
palliative care to ask if they are able to give you the 
methylnaltrexone shot that was helpful in having a bowel 
movement while you were in the hospital.
- Please attend all follow up appointments as below 

Thank you for allowing us be involved in your care, we wish you 
all the best!

Your ___ Team

 
Followup Instructions:
___